US07893049B2
Z-3) N-[1-(2-chloro-4-formyl-phenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazolo[4,3-g]benzothiazol-7-yl]-acetamide
In a hydrogenation reactor under an argon atmosphere, triethylammonium hypophosphite hydrate (2.2 mL, 12 mmol) is added at 10° C. to a suspension of Raney nickel (8 g, 93 mmol) in 75 mL dichloromethane and 75 mL methanol. After the release of gas has died away N-[1-(2-chloro-4-cyanophenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazolo[4,3-g]benzothiazol-7-yl]-acetamide (PCT/EP05055021) (2.7 g, 5.6 mmol) is added and the mixture is stirred for 3 h at 55° C. The reaction mixture is filtered and the filtrate is evaporated down. The residue is purified on silica gel with dichloromethane/methanol.

reactant | triethylammonium hypophosphite hydrate | 12 mmol, 2.2 mL | O.[PH2](=O)[O-].C(C)[NH+](CC)CC
reactant | N-[1-(2-chloro-4-cyanophenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazolo[4,3-g]benzothiazol-7-yl]-acetamide | 5.6 mmol, 2.7 g | ClC1=C(C=CC(=C1)C#N)N1N=C(C2=C1C1=C(N=C(S1)NC(C)=O)CC2)C=2C=NC=CC2 | C22H15ClN6OS
catalyst | Raney nickel | 93 mmol, 8 g | [Ni] | Ni
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | methanol | 75 mL | CO | CH4O
product | N-[1-(2-chloro-4-formyl-phenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazolo[4,3-g]benzothiazol-7-yl]-acetamide | ClC1=C(C=CC(=C1)C=O)N1N=C(C2=C1C1=C(N=C(S1)NC(C)=O)CC2)C=2C=NC=CC2 | C22H16ClN5O2S
